US07186714B2
8-Chloro-2-(4-fluorophenyl)-3-iodoimidazo[1,2-α]pyridine (0.15 g, 0.4 mmol) was dissolved in N,N-dimethylformamide (5 mL). To this solution was added 2-fluoro-4-pyridinylboronic acid (120 mg, 0.8 mmol), dichlorobis(triphenylphosphine)palladium (II) (60 mg, 0.08 mmol) and aqueous sodium carbonate (170 mg, 1.6 mmol). The resulting solution was heated at 100° C. overnight. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic phase was dried (magnesium sulfate), filtered and concentrated to a solid. Purification by silca gel chromatography (1:1 ethyl acetate:hexane) gave 8-chloro-2-(4-fluorophenyl)-3-(2-fluoropyridin-4-yl)imidazo[1,2-α]pyridine (110 mg, 81%) as a white solid. 1H NMR (CDCl3): δ 8.41 (d, 1H), 8.09 (d, 1H), 7.62 (q, 2H), 7.42 (d, 1H), 7.29 (d, 1H), 7.07 (m, 3H), 6.87 (t, 1H); 19F NMR (CDCl3) δ −65.46 and −112.94; MS m/z 342 (M+1).

reactant | 8-Chloro-2-(4-fluorophenyl)-3-iodoimidazo[1,2-α]pyridine | 0.4 mmol, 0.15 g | ClC=1C=2N(C=CC1)C(=C(N2)C2=CC=C(C=C2)F)I | C13H7ClFIN2
reactant | 2-fluoro-4-pyridinylboronic acid | 0.8 mmol, 120 mg | FC1=NC=CC(=C1)B(O)O | C5H5BFNO2
reactant | sodium carbonate | 1.6 mmol, 170 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium | 0.08 mmol, 60 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 8-chloro-2-(4-fluorophenyl)-3-(2-fluoropyridin-4-yl)imidazo[1,2-α]pyridine | 110 mg, 81% | ClC=1C=2N(C=CC1)C(=C(N2)C2=CC=C(C=C2)F)C2=CC(=NC=C2)F | C18H10ClF2N3
